US04937371
2-Hydroxy-4-[[6-(6,7-dimethoxy-2-naphthalenyl)-6-oxohexyl]oxy]3-propylbenzoic acid
A solution of 4.2 g (0.0085 mole) of 2-hydroxy-4-[[6-(6,7-dimethoxy-2-naphthalenyl)-6-oxohexyl]oxy]-3-propylbenzoic acid methyl ester in 100 mL of methanol, 50 mL of dioxane and 34 mL (0.034 mole) of 1N sodium hydroxide was stirred at reflux for 8 hours. The reaction mixture was concentrated under reduced pressure, the residue was acidified and the product was extracted with ethyl acetate. The dried extract was concentrated and the crude product was recrystallized from a methanol and water mixture to give 3.48 g, mp 144°-146°, of 2-hydroxy-4-[[6-(6,7-dimethoxy-2-naphthalenyl)-6-oxohexyl]oxy-3-propylbenzoic acid.

reactant | 2-hydroxy-4-[[6-(6,7-dimethoxy-2-naphthalenyl)-6-oxohexyl]oxy]-3-propylbenzoic acid methyl ester | 0.0085 mole, 4.2 g | COC(C1=C(C(=C(C=C1)OCCCCCC(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC)CCC)O)=O | C29H34O7
reactant | sodium hydroxide | 0.034 mole, 1N, 34 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-Hydroxy-4-[[6-(6,7-dimethoxy-2-naphthalenyl)-6-oxohexyl]oxy]3-propylbenzoic acid | OC1=C(C(=O)O)C=CC(=C1CCC)OCCCCCC(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC | C28H32O7
